US09278983B2
To a mixture of 2-(2-ethylsulfanylphenyl)-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine (270 mg) and DMF (10 ml), 60% of sodium hydride (in oil) (80 mg) and chloromethyl ethyl ether (188 μl) were sequentially added under ice-cooling. The mixture was heated to room temperature, and stirred for 5 hours. Into the reaction mixture, water was poured, and extracted with ethyl acetate. The organic layer was dried over sodium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to give 180 mg of 3-ethoxymethyl-2-(2-ethylsulfanylphenyl)-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine (hereinafter referred to as Present Compound 33) and 70 mg of 1-ethoxymethyl-2-(2-ethylsulfanylphenyl)-6-trifluoromethyl-1H-imidazo[4,5-b]pyridine (hereinafter referred to as Present Compound 34)).

reactant | 2-(2-ethylsulfanylphenyl)-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine | 270 mg | C(C)SC1=C(C=CC=C1)C1=NC=2C(=NC=C(C2)C(F)(F)F)N1 | C15H12F3N3S
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | sodium hydride | 80 mg | [H-].[Na+]
reactant | chloromethyl ethyl ether | 188 μl | C(C)OCCl | C3H7ClO
solvent | water | O | H2O
product | 3-ethoxymethyl-2-(2-ethylsulfanylphenyl)-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine | 180 mg | C(C)OCN1C(=NC=2C1=NC=C(C2)C(F)(F)F)C2=C(C=CC=C2)SCC | C18H18F3N3OS
